US07888349B2
Hydrogen chloride (300 mL of a 4 N solution in 1,4-dioxane) was added to a solution of tert-butyl 6-amino-10,11-dihydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(8H)-carboxylate (34.74 g, 102.36 mmol) in dichloromethane (300 mL). The reaction was stirred overnight at ambient temperature and then concentrated under reduced pressure. The resulting solid was suspended in dichloromethane, isolated by filtration, and washed sequentially with dichloromethane, diethyl ether, hexane, and diethyl ether. The solid was then triturated with methanol and isolated by filtration to provide 11.58 g of 8,9,10,11-tetrahydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinolin-6-amine hydrochloride as a white solid. The filtrate was concentrated under reduced pressure, dissolved in water, and precipitated with 1,4-dioxane to provide an additional 6.95 g of product.

reactant | Hydrogen chloride | Cl | ClH
reactant | tert-butyl 6-amino-10,11-dihydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(8H)-carboxylate | 102.36 mmol, 34.74 g | NC1=NC2=CC=CC=C2C2=C1N=C1N2CCN(C1)C(=O)OC(C)(C)C | C18H21N5O2
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 8,9,10,11-tetrahydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinolin-6-amine hydrochloride | 11.58 g | Cl.C1=C2C3=C(C(=NC2=CC=C1)N)N=C1N3CCNC1 | InChI=1S/C13H13N5.ClH/c14-13-11-12(8-3-1-2-4-9(8)16-13)18-6-5-15-7-10(18)17-11;/h1-4,15H,5-7H2,(H2,14,16);1H
